US04486359
To 500 ml. of anhydrous ethanol, 48.0 g. of triethylamine, 30.6 g. of paraformaldehyde are added. The mixture is stirred at boiling temperature and 37.5 g. of glycine are added. N,N-bis-hydroxymethyl-glycine formed in the reaction mixture is reacted without isolation with 69.0 g. of diethyl phosphite and the reaction mixture is stirred for 20 minutes at 80° C. The reaction mixture is further processed as disclosed in Example 1. 60-62 g. of crystalline N-phosphonomethyl-glycine are obtained. Purity: above 98%.

reactant | ethanol | C(C)O | C2H6O
reactant | paraformaldehyde | C=O | CH2O
reactant | glycine | NCC(=O)O | C2H5NO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N,N-bis-hydroxymethyl-glycine | OCN(CC(=O)O)CO | C4H9NO4
